US05672753
163 g (1 mole) 93.5% trimethylpyruvic acid sodium salt and 69.5 g (1 mole) hydroxylamine hydrochloride were dissolved at 40° C. in 450 ml water. The product crystallized out during slow cooling off under agitation. After 1.5 h agitation in an ice bath the crystals were filtered off, washed with 150 ml ice water and at first pre-dried in a vacuum at 60° C. and then post-dried in a vacuum desiccator over phosphorus pentoxide to constant weight. 117.8 g (yield 81%) trimethylpyruvic acid oxime in the form of colorless crystals were obtained.

reactant | trimethylpyruvic acid sodium salt | 1 mole, 163 g | [Na+].CC(C(C(=O)[O-])=O)(C)C
reactant | hydroxylamine hydrochloride | 1 mole, 69.5 g | Cl.NO
solvent | water | 450 ml | O | H2O
product | trimethylpyruvic acid oxime | 117.8 g, yield 81% | CC(C(C(=O)O)=NO)(C)C | C6H11NO3
